US05047540
(89) Preparation of 2-(5-methyl-1H-tetrazol-1-yl)-3-octadecylcarbamoyloxypropylamine IVi2
To a stirred solution of 1.02 g (2.25 mM) of 2-(5-methyl-1H-tetrazol-1-yl)-3-octadecylcarbamoyloxypropanol Vi2, 885 mg (3.38 mM) of triphenylphosphine, and 1.9 ml (3.38 mM) of 1.8 mM benzene solution of hydrazoic acid in 50 ml of tetrahydrofurane at -50° C. is added 0.53 ml (3.38 mM) of diethyl azodicarboxylate dropwise and the mixture is raised to room temperature during 2 hr. Subsequently, 150 mg of 10% palladium carbon is added to the mixture which is stirred under hydrogen gas for 30 minutes. After 10% palldium carbon filtered off, the solvent is evaporated. The residue obtained is purified by column silica gel chromatography using ethyl acetate-choroform/methanol (9/1) mixture as an eluent and 0.82 g (81% yield) of the title compound is obtained.

reactant | 2-(5-methyl-1H-tetrazol-1-yl)-3-octadecylcarbamoyloxypropanol | 2.25 mM, 1.02 g | CC1=NN=NN1C(CO)COC(NCCCCCCCCCCCCCCCCCC)=O | C24H47N5O3
reactant | triphenylphosphine | 3.38 mM, 885 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
reactant | diethyl azodicarboxylate | 3.38 mM, 0.53 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 150 mg | [C].[Pd]
solvent | benzene | 3.38 mM, 1.9 ml | C1=CC=CC=C1 | C6H6
product | 2-(5-methyl-1H-tetrazol-1-yl)-3-octadecylcarbamoyloxypropylamine | 0.82 g, 81% yield | CC1=NN=NN1C(CN)COC(NCCCCCCCCCCCCCCCCCC)=O | C24H48N6O2
